US07482462B2
4.8 g of 10-methoxymethylene-8-aza-blcyclo[4.3.1]decane-8-carboxylic acid tert-butyl ester are dissolved in 180 ml of CH3CN, 1.94 g of cerium trichloride heptahydrate and 390 mg of sodium iodide are added and the mixture obtained is stirred at 40° overnight. From the mixture obtained solvent is evaporated and the evaporation residue obtained is dissolved in EtAc. The mixture obtained is extracted with aqueous 1M HCl, aqueous, saturated NaHCO3-solution and brine. The organic layer obtained is dried, solvent is evaporated and the evaporation residue obtained is subjected to filtration over silica gel with EtAc/c-Hex (1:4→1:2). 10-Formyl-8-aza-bicyclo[4.3.1]decane-8-carboxylic acid tert-butyl ester is obtained. m.p.: 55-60°; 13C-NMR: 204.53, 155.28, 78.00, 55.40, 32.44, 32.12, 30.06, 28.89, 27.29.

reactant | decane-8-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C(CCCCCCC)CC | C15H30O2
reactant | cerium trichloride heptahydrate | 1.94 g | O.O.O.O.O.O.O.[Cl-].[Cl-].[Cl-].[Ce+3]
reactant | sodium iodide | 390 mg | [I-].[Na+]
reactant | CH3CN | 180 ml | CC#N | C2H3N
product | 10-Formyl-8-aza-bicyclo[4.3.1]decane-8-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2CCCCC(C1)C2C=O | C15H25NO3
